US07608633B2
A. tert-Butylindole-3-carboxylate
1.00 g (6.21 mmol) indole-3-carboxylic acid is dissolved in 150 ml absolute THF, mixed with 0.05 g (0.68 mmol) absolute DMF as well as with 1.48 g (12.5 mmol) thionylchloride and stirred at room temperature for 1 hour. Following the drop-wise addition of 2.51 g (24.8 mmol) tiethylamine and of 9.20 g (124 mmol) tert-butanol and heating under reflux for 2 hours, hydrolysis of the cooled reaction mixture is carried out in water. Three extractions with diethyl ether, concentration to half the volume on the rotary evaporator, washing with 5% sodium carbonate solution and with saturated NaCl solution, drying on sodium sulfate, filtration and reconcentration on the rotary evaporator leave as a crude product a brown oil which is purified on silica gel by means of column chromatography (flow agent: petroleum ether/ethyl acetate 90:10) and yields the product as a yellow oil.

reactant | indole-3-carboxylic acid | 6.21 mmol, 1.00 g | N1C=C(C2=CC=CC=C12)C(=O)O | C9H7NO2
reactant | DMF | 0.68 mmol, 0.05 g | CN(C)C=O | C3H7NO
reactant | thionylchloride | 12.5 mmol, 1.48 g | S(=O)(Cl)Cl | Cl2OS
reactant | tert-butanol | 124 mmol, 9.20 g | C(C)(C)(C)O | C4H10O
solvent | THF | 150 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | tert-Butylindole-3-carboxylate | C(C)(C)(C)OC(=O)C1=CNC2=CC=CC=C12 | C13H15NO2
